* ==========================================================================
* @part: 2N2646
* @family: special
* @source: Bordodynov
* @url: https://github.com/kicad-spice-library/KiCad-Spice-Library (Bordodynov LTspice library)
* @origin-file: KiCad-Spice-Library/Models/uncategorized/Bordodynovs Electronics Lib/sub/Ujt&Put.lib
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: 2N2646: 1 2 3
* @notes: unijunction transistor (UJT)
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
*Recopiled by Robertugo_2005
*Default N-Channel Unijunction Transistor
* ---- end of original file header ----

* Motorola IP=.5U IV=6M VB1(sat)=3 Rbb=6.1K Vob1=3.6: E, B1, B2
.SUBCKT 2N2646 1 2 3
DE 1 4 EMITTER
VE 4 5 DC 0
HVE 6 0 VE 1K
RVE 0 6 1MEG
BBB 5 7 I=0.00028*V(5,7)+0.00575*V(5,7)*V(6)
CBB 5 7 35P
RB1 7 2 38.15
RB2 3 5 2.518K
.MODEL EMITTER D (IS=21.3P N=1.8)
.ENDS
