* ==========================================================================
* @part: ICL8038
* @family: special
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: 3-clause BSD (Holger Vogt)
* @added-by: nav
* ==========================================================================
* ICL8038 model
* derived from the bipolar circuit given in the datasheet by
* Holger Vogt, 240211
* Copyright Holger Vogt, 2024
* Info is available at
* https://www.renesas.com/document/dst/icl8038-datasheet
* http://www.bmo.physik.uni-muenchen.de/~riedle/Elektronik_I/KW102/ICL8038.pdf
* https://www.richis-lab.de/gen02.htm
* License 3-clause BSD
*
*               Sine wave adjust
*               |    Sine wave out
*               |    |    Triangle out
*               |    |    |    Duty cycle, freq adjust
*               |    |    |    |    Duty cycle, freq adjust
*               |    |    |    |    |    V+
*               |    |    |    |    |    |    FM Bias
*               |    |    |    |    |    |    |    FM Sweep in
*               |    |    |    |    |    |    |    |    Square wave out
*               |    |    |    |    |    |    |    |    |    Timing cap
*               |    |    |    |    |    |    |    |    |    |     V- or GND
*               |    |    |    |    |    |    |    |    |    |     |     Sine wave adjust
*               |    |    |    |    |    |    |    |    |    |     |     |
.subckt ICL8038 Pin1 Pin2 Pin3 Pin4 Pin5 Pin6 Pin7 Pin8 Pin9 Pin10 Pin11 Pin12
.model NP NPN (BF=125 Cje=0.5p Cjc=0.5p Rb=500)
.model PN LPNP (BF=25 Cje=0.3p Cjc=1.5p Rb=250)
.model __D2 D
.model __D3 D
.model __D5 D
.model __D4 D

Q14 Net-_Q12-B_ Net-_Q12-B_ Net-_Q14-E_ NP
R12 Net-_Q14-E_ Pin11 100
R8 Net-_Q12-E_ Pin11 100
R10 Net-_Q13-B_ Net-_Q11-B_ 470
Q12 Net-_Q10-E_ Net-_Q12-B_ Net-_Q12-E_ NP
R2 Pin6 Net-_D2-A_ 30k
Q2 Pin6 Net-_D2-A_ Net-_Q2-E_ NP
D2 Net-_D2-A_ Net-_D2-K_ __D2
D3 Net-_D2-K_ Net-_D3-K_ __D3
D5 Net-_D4-K_ Pin11 __D5
D4 Net-_D3-K_ Net-_D4-K_ __D4
Q3 Pin9 Net-_Q3-B_ Pin11 NP
Q11 Net-_Q10-E_ Net-_Q11-B_ Pin11 NP
Q13 Net-_Q13-C_ Net-_Q13-B_ Pin11 NP
R6 Net-_Q3-B_ Pin11 2.7k
R9 Net-_Q2-E_ Net-_Q13-C_ 620
R5 Net-_Q4-E_ Net-_Q3-B_ 270
Q4 Pin6 Net-_Q13-C_ Net-_Q4-E_ NP
R11 Net-_Q13-C_ Net-_Q20-B_ 27k
R14 Net-_Q2-E_ Net-_Q13-B_ 1.8k
Q20 Net-_Q13-B_ Net-_Q20-B_ Pin11 NP
Q22 Net-_Q13-B_ Net-_Q22-B_ Pin11 NP
Q21 Net-_Q20-B_ Net-_Q21-B_ Pin11 NP
R15 Net-_Q21-B_ Pin11 4.7k
R16 Net-_Q22-B_ Pin11 4.7k
Q29 Pin6 Net-_Q26-E_ Net-_Q29-E_ NP
R19 Net-_Q29-E_ Pin11 27k
Q30 Pin11 Net-_Q29-E_ Net-_Q30-E_ PN
R18 Net-_Q26-E_ Net-_Q29-E_ 27k
Q18 Pin10 Net-_Q10-E_ Net-_Q12-B_ NP
R13 Net-_Q19-E_ Pin11 100
Q19 Net-_Q12-B_ Net-_Q12-B_ Net-_Q19-E_ NP
Q7 Net-_Q15-B_ Net-_Q15-B_ Pin8 NP
Q5 Pin6 Pin8 Net-_Q15-B_ NP
R3 Pin6 Pin7 11k
R4 Pin7 Pin11 39k
Q9 Net-_Q15-B_ Net-_Q10-B_ Net-_Q9-E_ NP
R7 Net-_Q9-E_ Net-_Q10-E_ 40k
Q8 Pin5 Net-_Q6-C_ Net-_Q10-B_ NP
Q6 Net-_Q6-C_ Net-_Q15-B_ Pin5 PN
Q10 Net-_Q10-B_ Net-_Q10-B_ Net-_Q10-E_ NP
Q17 Net-_Q16-E_ Net-_Q16-E_ Pin10 NP
Q16 Pin4 Net-_Q15-C_ Net-_Q16-E_ NP
Q15 Net-_Q15-C_ Net-_Q15-B_ Pin4 PN
Q23 Net-_Q22-B_ Net-_Q23-B_ Pin6 PN
R20 Pin6 Net-_Q33-B_ 27k
Q34 Pin6 Net-_Q33-B_ Pin3 NP
R24 Pin3 Pin2 1k
Q26 Pin6 Net-_Q16-E_ Net-_Q26-E_ NP
Q33 Net-_Q33-B_ Net-_Q33-B_ Net-_Q30-E_ NP
R17 Pin6 Net-_Q23-B_ 4k
Q25 Net-_Q23-B_ Pin10 Net-_Q25-E_ NP
Q31 Pin6 Net-_Q31-B_ Net-_Q27-E_ NP
Q36 Pin6 Net-_Q36-B_ Net-_Q31-B_ NP
R22 Net-_Q36-B_ Net-_Q37-B_ 5k
R23 Net-_Q37-B_ Pin11 5k
R21 Pin6 Net-_Q36-B_ 5k
Q32 Pin11 Net-_Q32-B_ Net-_Q28-E_ PN
Q24 Net-_Q21-B_ Pin10 Net-_Q24-E_ PN
Q28 Net-_Q21-B_ Net-_Q24-E_ Net-_Q28-E_ PN
R7B2 Pin6 Net-_Q28-E_ 15k
Q27 Net-_Q23-B_ Net-_Q25-E_ Net-_Q27-E_ NP
R7A2 Net-_Q27-E_ Pin11 10k
Q37 Pin11 Net-_Q37-B_ Net-_Q32-B_ PN
Q40 Pin6 Net-_Q40-B_ Net-_Q40-E_ NP
Q39 Pin11 Net-_Q39-B_ Net-_Q38-B_ PN
R25 Pin2 Net-_Q38-E_ 10k
R26 Pin2 Net-_Q40-E_ 2.7k
R27 Pin2 Net-_Q42-E_ 800
Q35 Pin11 Net-_Q29-E_ Pin3 PN
R31 Pin6 Net-_Q44-B_ 33k
R40 Net-_Q47-B_ Net-_Q39-B_ 1600
R29 Pin6 Net-_Q40-B_ 33k
Q41 Pin11 Net-_Q41-B_ Net-_Q40-B_ PN
Q42 Pin6 Net-_Q42-B_ Net-_Q42-E_ NP
R30 Pin6 Net-_Q42-B_ 33k
Q43 Pin11 Net-_Q43-B_ Net-_Q42-B_ PN
R35 Net-_Q39-B_ Net-_Q41-B_ 330
R34 Net-_Q41-B_ Net-_Q43-B_ 375
R46 Net-_Q50-B_ Pin11 33k
R47 Pin2 Net-_Q48-E_ 2.7k
Q48 Pin11 Net-_Q48-B_ Net-_Q48-E_ PN
Q47 Pin6 Net-_Q47-B_ Net-_Q46-B_ NP
R43 Pin2 Net-_Q46-E_ 10k
Q38 Pin6 Net-_Q38-B_ Net-_Q38-E_ NP
R28 Pin6 Net-_Q38-B_ 33k
R42 Net-_Q46-B_ Pin11 33k
Q46 Pin11 Net-_Q46-B_ Net-_Q46-E_ PN
R45 Net-_Q49-B_ Pin11 33k
R44 Net-_Q48-B_ Pin11 33k
R32 Pin12 Pin11 5.6k
Q44 Pin6 Net-_Q44-B_ Pin2 NP
Q45 Pin11 Pin12 Net-_Q44-B_ PN
R33 Net-_Q43-B_ Pin12 200
Q53 Pin6 Pin1 Net-_Q50-B_ NP
Q50 Pin11 Net-_Q50-B_ Pin2 PN
R41 Pin6 Pin1 5.2k
R39 Net-_Q51-B_ Net-_Q47-B_ 330
R38 Net-_Q52-B_ Net-_Q51-B_ 375
Q52 Pin6 Net-_Q52-B_ Net-_Q49-B_ NP
Q49 Pin11 Net-_Q49-B_ Net-_Q49-E_ PN
R48 Pin2 Net-_Q49-E_ 800
Q51 Pin6 Net-_Q51-B_ Net-_Q48-B_ NP
R36 Pin1 Net-_Q52-B_ 200
.ends
