* ==========================================================================
* @part: LTC1044
* @family: special
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: 3-clause BSD (Holger Vogt)
* @added-by: nav
* ==========================================================================
* ngspice model for LTC1044
* derived from the block diagrams given in the datasheet by
* Holger Vogt, 240213
* Copyright Holger Vogt, 2024
* License 3-clause BSD

* Info is available at
* https://www.analog.com/en/products/ltc1044.html

* LV (pin6) not supported, OSC (pin7) overriding per external clock supported, 
* pin7 capacitor to change osc frequency not supported.

.subckt LTC1044HV pin1 pin2 pin3 pin4 pin5 pin6 pin7 pin8

.param asw=0

.if (asw==1)
.model switch4 pswitch(cntl_off=1.65 cntl_on=1.65 r_on=1.0 log=TRUE)
AS1 %g q %gd(pin8 pin2) switch4
AS2 %g qn %gd(pin2 pin3) switch4
AS3 %g q %gd(pin3 pin4) switch4
AS4 %g qn %gd(pin4 pin5) switch4
.else
.model swa sw(vt=1.65)
S1 pin8 pin2 q 0 swa
S2 pin2 pin3 qn 0 swa
S3 pin3 pin4 q 0 swa
S4 pin4 pin5 qn 0 swa
.endif

CS1 q 0 1p
CS2 qn 0 1p

abridge1 [dq dqn] [q qn] dac1
.model dac1 dac_bridge(out_low = 0.7 out_high = 3.0 out_undef = 2.2
+ input_load = 5.0e-12 t_rise = 50e-9
+ t_fall = 20e-9)

*flipflop
a7 dqn din nc2 nc3 dq dqn flop1
.model flop1 d_dff(clk_delay = 13.0e-9 set_delay = 25.0e-9
+ reset_delay = 27.0e-9 rise_delay = 10.0e-9
+ fall_delay = 3e-9)

*oscillator
a5 pin1 dosc var_clock
.model var_clock d_osc(cntl_array = [-2 0 1 2]
+ freq_array = [1e3 1e3 6e3 6e3]
+ duty_cycle = 0.5 init_phase = 0
+ rise_delay = 10e-9 fall_delay=8e-9)

* pull down pin1 to 0 if open
Rpin1 pin1 0 1G 

*convergence helper
Rp2 pin2 0 1e9
*Rp4 pin4 0 1e9

*pin7 (osc) external override ******************************************
Vp7 int7 pin8 1
Rp71 int7 pin7 1Meg
Rp72 int7 0 1G
* dselect7 high: pin7 open, internal osc
* dselect7 low: external oscillator
abridge2 [%vd(pin7 pin8)] [dselect7] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)

abridge3 [pin7] [dp7] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)

*mux
ana1 [dosc dselect7] dna1 and1
ana2 [dp7 ~dselect7] dna2 and1
aor12 [dna1 dna2] din or12

.model or12 d_or(rise_delay = 0.5e-9 fall_delay = 0.3e-9
+ input_load = 0.5e-12)

.model and1 d_and(rise_delay = 0.5e-9 fall_delay = 0.3e-9
+ input_load = 0.5e-12)
**************************************************************************
.ends
