* ==========================================================================
* @part: MC1496
* @family: special
* @source: Bordodynov
* @url: https://github.com/kicad-spice-library/KiCad-Spice-Library (Bordodynov LTspice library)
* @origin-file: KiCad-Spice-Library/Models/uncategorized/Bordodynovs Electronics Lib/sub/MC1496.lib
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: MC1496: PIN1 PIN2 PIN3 PIN4 PIN5 PIN6 PIN7 PIN8 PIN9 PIN10 PIN11 PIN12 PIN13 PIN14
* @notes: balanced modulator/demodulator (14-pin package order)
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
** SPICE MODEL (Device-Level) for 1496 BALANCED MODULATOR/DEMODULATOR
*******
* ---- end of original file header ----

.SUBCKT MC1496 PIN1 PIN2 PIN3 PIN4 PIN5 PIN6 PIN7 PIN8 PIN9 PIN10 PIN11 PIN12
+  PIN13 PIN14
R_R4         PIN14 PIN7 1G
R_R5         PIN14 PIN9 1G
R_R6         PIN14 PIN11 1G
R_R7         PIN14 PIN13 1G
R_R1         N_1 PIN14 500
R_R2         N_2 PIN14 500
R_R3         N_3 PIN14 500
R_R9         SUB PIN14 10
X_Q1         PIN6 PIN8 N_4 [SUB]  NPN3
X_Q3         PIN6 PIN10 N_5 [SUB]  NPN3
X_Q2         PIN12 PIN10 N_4 [SUB]  NPN3
X_Q4         PIN12 PIN8 N_5 [SUB]  NPN3
X_Q5         N_4 PIN4 PIN3 [SUB]  NPN3
X_Q6         N_5 PIN1 PIN2 [SUB]  NPN3
X_Q7         PIN3 PIN5 N_2 [SUB]  NPN3
X_Q8         PIN2 PIN5 N_3 [SUB]  NPN3
X_Q9         PIN5 PIN5 N_1 [SUB]  NPN3
****************************************
.SUBCKT NPN3 1 2 3 4
Q1 5 2 3 4 N1 3
Q2 4 5 2 4 P1 2
D1 2 3 DZ
D2 4 5 DCS
R1 1 5 50
.ENDS NPN3
.MODEL  N1 NPN  (IS=5E-16 ;LOT/UNIFORM=90%  DEV/GAUSS=3%)
+ BF=220 ;LOT/UNIFORM=50%  DEV/GAUSS=2%)
+ BR=0.7  NR=1
+ ISE=3.5E-16   IKF=3E-3  IKR=3E-2  NE=1.4  NC=0.8  VAF=60
+ VAR=7   RC=15  RE=2  RB=200  RBM=100  IRB=3E-4  XTB=1.17
+ XTI=2.2   EG=1.235  TF=69.09E-12  TR=9E-9  XTF=0.3  VTF=6
+ ITF=5E-5   CJE=0.105E-12  MJE=0.8  VJE=0.8  ISC=1E-15
+ KF=2E-13   AF=1.4
.MODEL P1 PNP IS=1E-15  BF=100  BR=.01  CJE=0.14E-12
.MODEL DZ D IS=1E-16  RS=250  BV=5.9  ;LOT=0.3  DEV=0.05)
+ TBV1=1.8E-4  VJ=.6  M=0.5  IBV=10UA  EG=1.11  XTI=3  N=1.75
.MODEL DCS D  IS=1E-17  CJO=0.7E-12
.ENDS    MC1496
